US08110571B2
To a solution of 340 mg of tert-butyl 4-(2-{[(5-{[(2,6-dichlorophenyl)sulfonyl]oxy}-1H-benzimidazol-2-yl)carbamoyl]amino}ethyl)-piperazine-1-carboxylate in 60 cm3 of dichloromethane are added 631 mg of trifluoroacetic acid. The mixture is stirred for 24 hours at a temperature in the region of 20° C., and 590 mg of trifluoroacetic acid are then added. The reaction medium is stirred for three days and then evaporated to dryness under reduced pressure (2 kPa). The residue is taken up in 25 cm3 of water, brought to pH 9 with potassium carbonate and then extracted with three times 50 cm3 of ethyl acetate. The combined organic phases are dried over magnesium sulfate, filtered and evaporated to dryness under reduced pressure (2 kPa). After flash chromatography on a column of silica [eluent: chloroform/methanol/28% aqueous ammonia (12/6/0.5 by volume)], the resin obtained is solidified in 25 cm3 of diisopropyl ether, filtered, washed with three times 2 cm3 of diisopropyl ether and then dried under reduced pressure over phosphorus pentoxide. 165 mg of 2-{[(2-piperazin-1-ylethyl)carbamoyl]amino}-1H-benzimidazol-5-yl 2,6-dichlorobenzenesulfonate are obtained in the form of a white powder, the characteristics of which are as follows:

reactant | tert-butyl 4-(2-{[(5-{[(2,6-dichlorophenyl)sulfonyl]oxy}-1H-benzimidazol-2-yl)carbamoyl]amino}ethyl)-piperazine-1-carboxylate | 340 mg | ClC1=C(C(=CC=C1)Cl)S(=O)(=O)OC1=CC2=C(NC(=N2)NC(=O)NCCN2CCN(CC2)C(=O)OC(C)(C)C)C=C1 | C25H30Cl2N6O6S
reactant | trifluoroacetic acid | 631 mg | FC(C(=O)O)(F)F | C2HF3O2
reactant | trifluoroacetic acid | 590 mg | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 60 cm3 | ClCCl | CH2Cl2
solvent | diisopropyl ether | 25 cm3 | C(C)(C)OC(C)C | C6H14O
product | 2-{[(2-piperazin-1-ylethyl)carbamoyl]amino}-1H-benzimidazol-5-yl 2,6-dichlorobenzenesulfonate | 165 mg | ClC1=C(C(=CC=C1)Cl)S(=O)(=O)OC1=CC2=C(NC(=N2)NC(NCCN2CCNCC2)=O)C=C1 | C20H22Cl2N6O4S
